US07319101B2
d) Methyl 2,3-bis-benzyloxy-5-trifluoromethyl-benzoate
To a solution of 1,2-bis-benzyloxy-3-bromo-5-trifluoromethyl-benzene (750 mg, 1.76 mmol) in 10 mL dry THF cooled to −90° C., BuLi (3.3 mL of a 1.6 m solution in hexane, 5.28 mmol, 3 eq.) was slowly added via a syringe and the yellow solution was stirred at low temperature for 15 min. Methyl chloroformate (1.66 g, 17.6 mmol, 10 eq.) was then added to the solution and the reaction mixture was allowed to warm to r.t. where the stirring was continued for 1 h. The mixture was then poured into a separatory funnel containing H2O and EtOAc and the phases were separated. The organic phase was washed with brine, dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 10:1) to yield the desired compound as a colorless solid.

reactant | 1,2-bis-benzyloxy-3-bromo-5-trifluoromethyl-benzene | 1.76 mmol, 750 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(F)(F)F)Br)OCC1=CC=CC=C1 | C21H16BrF3O2
reactant | BuLi | [Li]CCCC
reactant | Methyl chloroformate | 17.6 mmol, 1.66 g, 10 eq. | ClC(=O)OC | C2H3ClO2
reactant | H2O | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2,3-bis-benzyloxy-5-trifluoromethyl-benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1OCC1=CC=CC=C1)C(F)(F)F | C23H19F3O4
